US07932272B2
2-Amino-N-(5-phenoxy-thiophen-2-ylmethyl)-6-propylamino-nicotinamide
2-Amino-6-chloro-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide described in Example A-101 (200 mg, 0.56 mmol) was dissolved in a mixture solution of dimethylsulfoxide (2 mL) and N,N-diisopropylethylamine (1 mL), propylamine (0.685 mL, 8.3 mmol) was added thereto, followed by heating in a sealed tube for 13 hours (oil bath temperature: 135° C.). The reaction mixture was allowed to room temperature, poured into brine, which was then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, then concentrated, the obtained residue was purified by NH silica gel column chromatography (ethyl acetate:hexane=2:1), and the title compound (89 mg, 0.23 mmol, 42%) was obtained.

reactant | 2-Amino-6-chloro-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC(=N1)Cl | C17H14ClN3O2S
reactant | A-101 | 0.56 mmol, 200 mg | C1=CC=C(C=C1)CC(=O)NCN[C@@H](CC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O | C18H19N3O5
reactant | propylamine | 8.3 mmol, 0.685 mL | C(CC)N | C3H9N
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | N,N-diisopropylethylamine | 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | brine | [Cl-].[Na+].O
product | 2-Amino-N-(5-phenoxy-thiophen-2-ylmethyl)-6-propylamino-nicotinamide | 0.23 mmol, 89 mg, 42% | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC(=N1)NCCC | C20H22N4O2S
